
.include opamp.cir


Xopamp inp 0 out opamp

Vin inp 0 0 ac 1 

.control
*tran 10u 10m uic
ac dec 1000 1 1e6
plot vdb(out) xlog
save all
write
.endc


